US08431580B2
6-Chloro-2-isobutylpyrimidin-4-amine
2,6-Dichloropyrimidin-4-amine (0.75 g, 4.56 mmol), palladium acetate (51 mg, 0.23 mmol) and tri-tert-butylphosphine (0.45 mL of a 1 M solution in toluene, 0.45 mmol) were introduced in a flask and the system was purged three times with vacuum/argon cycles. A 2:1 THF-NMP mixture (24 mL) was then added and it was purged again three times with vacuum/argon. It was stirred for 10 minutes at room temperature and isobutylzinc bromide was added (13.7 mL of a 0.5 M solution in THF, 6.84 mmol). It was inertized again with vacuum/argon cycles and the reaction mixture was heated overnight at 100° C. The reaction crude was cooled to room temperature and filtered over Celite®, and the filter was washed with ethyl acetate. The filtrate was evaporated to dryness, the residue was diluted with ethyl acetate and the phases were separated. The organic phase was washed three times with water, it was dried over Na2SO4 and concentrated to dryness. The residue was purified by chromatography over silica gel using mixtures of hexane/EtOAc of increasing polarity as eluent, providing 0.69 g of the title compound as a 1:1 mixture of the two regioisomers (yield: 81% as the isomeric mixture, ca 40% for the intended isomer).

reactant | 2,6-Dichloropyrimidin-4-amine | 4.56 mmol, 0.75 g | ClC1=NC(=CC(=N1)N)Cl | C4H3Cl2N3
reactant | tri-tert-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.23 mmol, 51 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-Chloro-2-isobutylpyrimidin-4-amine | 0.69 g, yield: 81% | ClC1=CC(=NC(=N1)CC(C)C)N | C8H12ClN3
